US07304081B2
Step 3: Synthesis of 3H-spiro[2-benzofuran-1,3′-pyrrolidine]
To a solution of 1′-benzyl-3H-spiro[2-benzofuran-1,3′-pyrrolidine] (200 mg, 0.0008 mol) in methanol (10 mL) was added Pd/C (150 mg), and the suspension was hydrogenated under H2 (50 psi) overnight. The mixture was filtered and then concentrated to give the desired compound (110 mg, 92% yield). MS (ESI): 176.1 (M+H+).

reactant | 1′-benzyl-3H-spiro[2-benzofuran-1,3′-pyrrolidine] | 0.0008 mol, 200 mg | C(C1=CC=CC=C1)N1CC2(CC1)OCC1=C2C=CC=C1 | C18H19NO
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | 3H-spiro[2-benzofuran-1,3′-pyrrolidine] | 110 mg, 92% yield | N1CC2(CC1)OCC1=C2C=CC=C1 | C11H13NO
